US08871782B2
tert-Butyl 4-{[4-amino-2-(ethoxymethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-7-yl]oxy}piperidine-1-carboxylate (2.45 g, 5.07 mmol) was taken up in 4.0M ethanolic hydrogen chloride (15 mL) and heated to 65° C. for 1 hour. The heat was removed and the reaction was allowed to cool to ambient temperature. The ethanol was removed under reduced pressure and the solid residue was dissolved in water (10 mL) and saturated aqueous sodium. chloride (10 mL). The solution was brought to pH 13 with 50% aqueous sodium hydroxide and then extracted with chloroform. The organic fraction was sequentially washed with water and saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, filtered and evaporated. Trituration with acetonitrile, followed by filtration afforded 1.70 g of 2-(ethoxymethyl)-7-(piperidin-4-yloxy)-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine as a tan solid, mp 202-204° C.

reactant | tert-Butyl 4-{[4-amino-2-(ethoxymethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-7-yl]oxy}piperidine-1-carboxylate | 5.07 mmol, 2.45 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CCC)COCC)OC2CCN(CC2)C(=O)OC(C)(C)C | C26H37N5O4
solvent | hydrogen chloride | 4.0M, 15 mL | Cl | ClH
product | 2-(ethoxymethyl)-7-(piperidin-4-yloxy)-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 1.70 g | C(C)OCC=1N(C2=C(C(=NC=3C=C(C=CC23)OC2CCNCC2)N)N1)CCC | C21H29N5O2
